US08084448B2
L. 7-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one
A solution of 7-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one potassium salt in 6 mL of EtOH/water (1:1) is hydrogenated over 10% Pd/C at 1 atm for 2 h. The catalyst is filtered and the solvent is removed under reduced pressure. The residue is purified by reverse phase HPLC followed by lyophilization to give the title compound as a solid: 1H NMR (DMSO-d6): δ 7.85-7.83 (d, J=8.09 Hz, 1H), 7.42-7.41 (d, J=2.02 Hz, 1H), 7.34-7.32 (dd, J=1.77 Hz, 8.09 Hz, 1 H), 6.49-6.50 (d, J=3.53 Hz, 1H), 4.94 (s, 2H), 4.21-4.13 (m, 2H), 3.33-3.20 (m, 3H), 2.98-2.91 (m, 1H), 2.72-2.67 (m, 1H), 2.40-2.21 (m, 3H), 2.08-1.75 (m, 3H). (M−1)−=352.

reactant | 7-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one potassium salt | [K].C(C1=CC=CC=C1)OC=1C=C(CC2CCCCC(N2)=O)C=CC1N1S(NC(C1)=O)(=O)=O
solvent | EtOH water | 6 mL | CCO.O
catalyst | Pd/C | [Pd] | Pd
product | 7-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one | OC=1C=C(CC2CCCCC(N2)=O)C=CC1N1S(NC(C1)=O)(=O)=O | C15H19N3O5S
